US08563575B2
2-Chloro-1-methyl-1H-benzimidazole (15 mg) was added to a solution of 1-cyclopropyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (24.06 mg) and NaH (5.40 mg) in DMF (1 mL) at 100° C. The mixture was heated at 180° C. for 1 h under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-cyclopropyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (5.0 mg) as white crystals.

reactant | 2-Chloro-1-methyl-1H-benzimidazole | 15 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 1-cyclopropyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 24.06 mg | C1(CC1)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C15H13N3O2
reactant | NaH | 5.40 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-cyclopropyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 5.0 mg | C1(CC1)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1)=O | C23H19N5O2
